US06881728B1
xi)—A solution of (11β,14β,17α)-11-ethyl-3-methoxyestra-2,5(10)-diene-17-methanol (3.3 g) in tetrahydrofuran (30 ml) was treated with hydrochloric acid (2 M, 10 ml). The reaction mixture was stirred at room temperature for 30 min. and then neutralized with a saturated aqueous solution of sodium hydrogencarbonate. Water was added and the product was extracted into ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate and concentrated under reduced pressure, to give (11β,14β,17α)-11-ethyl-17-(hydroxymethyl)estr-5(10)-en-3-one (3.3 g). The product was used in the following step without further purification.

reactant | (11β,14β,17α)-11-ethyl-3-methoxyestra-2,5(10)-diene-17-methanol | 3.3 g | C(C)[C@@H]1[C@@H]2C=3CC=C(CC3CC[C@H]2[C@H]2CC[C@H]([C@@]2(C)C1)CO)OC | C22H34O2
reactant | hydrochloric acid | 2 M, 10 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (11β,14β,17α)-11-ethyl-17-(hydroxymethyl)estr-5(10)-en-3-one | 3.3 g | C(C)[C@@H]1[C@@H]2C=3CCC(CC3CC[C@H]2[C@H]2CC[C@H]([C@@]2(C)C1)CO)=O | C21H32O2
